Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Major depressive disorder with ethanol use disorder, suicide 
note written prior to admission
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ year old man with a longstanding history 
of treatment refractory depression and alcohol use disorder who 
presented to the ___ ED via ambulance after his wife alerted 
EMS about his ongoing depression and increasing alcohol use. The 
patient's therapist encouraged his wife to alert EMS.

The patient wrote a suicide note prior to admission detailing 
his long history of depression and feelings that others have 
ignored his suffering. On initial presentation to the unit the 
patient denied active suicidal ideation but did report passive 
suicidal thoughts and the desire that he die peacefully. He is 
unable to cite any protective factors against suicide but notes 
that he simply does not have thoughts about harming himself
intentionally.

Recently the patient lost his job and ever since has been 
feeling more and more depressed and has increased his alcohol 
intake to the point that he drinks several drinks per day 
including in the mornings. He denies history of alcohol 
withdrawal seizures in the past and does not think he has a 
problem with alcohol. His last drink was the morning of 
presentation.

PSYCHIATRIC REVIEW OF SYSTEMS: The patient reported depressed
mood, decreased appetite, feelings of
guilt/hopelessness/helplessness, anhedonia and decreased energy.

ED COURSE: The patient was agitated and not cooperative in the
ED. He asked to leave the ED multiple times and security was
placed at the bedside to prevent elopement. He was started on a
___ protocol in the ED.
   

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per ___ note (___),
confirmed with patient and updated as relevant:
 - No prior hospitalizations. Two past detoxes.
 - Treaters: No consistent outpatient psychiatris. Therapist
___ at ___.,
___ ___
 - Medication trials: Celexa, Sertraline
 - Self-injury: Denies. Denies suicide attempts
 - Harm to others: denies
 - Access to weapons: Denies current access but per wife patient
has been researching where to buy guns.

PAST MEDICAL HISTORY: Per ___ note (___), confirmed
with patient and updated as relevant:
 - Denies history of medical illnesses. Chart review notes
patient previously underwent hydrocelectomy.

 
Social History:
SUBSTANCE USE HISTORY:
 - Denies illicit drug use. Everyday smoker. Increasing alcohol
use recently (no history of withdrawal seizures, drinks in the
mornings, last drink ___ AM).

FORENSIC HISTORY:
___
SOCIAL HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: Per ___ note (___),
confirmed with patient and updated as relevant:
 - Patient denies history of psychiatric illness or suicide
attempt in the family. Chart review notes cousin with history of
substance abuse.
 
Physical Exam:
Admission:
PHYSICAL EXAMINATION:
VS: T: 98.1, BP: 136/90, HR: 58, O2 sat: 99% on RA
- General: Middle-aged female in NAD. Well-nourished,
well-developed. Appears stated age.
 - HEENT: Normocephalic, atraumatic. EOMI
 - Neck: Supple.
 - Back: No significant deformity.
 - Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 - CV: RRR, no murmurs/rubs/gallops. 
 - Abdomen: +BS, soft, nontender, nondistended. No palpable
masses or organomegaly.
 - Extremities: No clubbing, cyanosis, or edema.
 - Skin: Bilateral maculopapular rash on distal lower
extremities, moderately tender to palpation, with healing
ulcerations. 

Neurological:
 - Motor: Normal bulk and tone bilaterally. No abnormal
movements, no tremor, no asterixis. Strength: full power ___
throughout.
 - Gait: Steady. Normal stance and posture. No truncal ataxia.
 - Coordination: No dysmetria or dysdiadochokinesia

Discharge: 
MSE: 
  General: Wearing red baseball hat backwards, football hoodie,
scrub pants; sitting in chair with arms crossed
  *Mood and Affect: 'okay'; appears frustrated, as team 
discusses abstinence from drinking
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
no TB/LOA
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): no overt delusions/hallucinations/paranoid.
denies si/hi
  *Judgment and Insight: poor/poor
    *Speech: fluent
    *Cognition: a and o x 3

 
Pertinent Results:
___ 11:08AM URINE  HOURS-RANDOM
___ 11:08AM URINE  HOURS-RANDOM
___ 11:08AM URINE  GR HOLD-HOLD
___ 11:08AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:08AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:08AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:08AM URINE  RBC-1 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 11:08AM URINE  HYALINE-1*
___ 11:08AM URINE  MUCOUS-MANY
___ 10:16AM   GLUCOSE-82 UREA N-6 CREAT-0.6 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-22 ANION GAP-22*
___ 10:16AM   estGFR-Using this
___ 10:16AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:16AM   WBC-6.4 RBC-3.69* HGB-12.5* HCT-38.4* 
MCV-104* MCH-33.9* MCHC-32.6 RDW-14.1 RDWSD-53.9*
___ 10:16AM   NEUTS-56.5 ___ MONOS-8.7 EOS-1.9 
BASOS-0.6 IM ___ AbsNeut-3.64 AbsLymp-2.06 AbsMono-0.56 
AbsEos-0.12 AbsBaso-0.04
___ 10:16AM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, but 
subsequently signed a conditional voluntary agreement along with 
a 3-day notice, which expired on ___. They were also placed on 
15 minute checks status on admission and remained on that level 
of observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major depression
Patient expressed multiple symptoms of depression on admission 
to the unit, including depressed mood, anhedonia, anergia, 
amotivation, psychomotor regardation, insomnia, feelings of 
profound shame and guilt, and low concentration.  He also wrote 
a serious suicide note to his wife, which lead to his admission, 
after his wife and therapist agreed that he was no longer safe 
at ___. We discontinued his sertraline, to which his depression 
was refractory, and began duloxetine. We impressed upon the 
patient our opinion that relief of his depression would be 
highly contingent on the cessation of his ethanol use, but the 
patient expressed doubt that he would be able to stop drinking 
and showed limited motivation to do so. We encouraged the 
patient to follow up with outpatient psychiatry and therapy, to 
engage in substance dependence treatment to minimize his chances 
of alcohol relapse and exacerbation of his depressive disorder, 
and encouraged him to remain adherent to his medications. 

3. SUBSTANCE USE DISORDERS:
#)Ethanol use disorder
Patient reported daily drinking, roughly 1.5 pints of whiskey 
daily, since the beginning of ___ when he lost his job. We 
prescribed the patient naltrexone. We impressed upon the patient 
our opinion that relief of his depression would be highly 
contingent on the cessation of his ethanol use, but the patient 
expressed doubt that he would be able to stop drinking and 
showed limited motivation to do so. We encouraged the patient to 
follow up with outpatient psychiatry and therapy, to engage in 
substance dependence treatment to minimize his chances of 
alcohol relapse and exacerbation of his depressive disorder, and 
encouraged him to remain adherent to his medications. We asked 
that he stay on our unit for treatment of depression and for 
help with alcohol abstinence, until such time as a 
dual-diagnosis or substance-use treatment bed availed itself for 
him, but the patient elected to sign himself out on ___ 
after a 3-day notice.

4. MEDICAL
#)Ethanol withdrawal
Patient was initially withdrawing from ethanol upon admission, 
and CIWA-based withdrawal evaluation was initiated with diazepam 
dosing for elevated scores. Patient was scoring 10 on CIWA 
scales on his first night and receiving diazepam to prevent 
withdrawals the first night and next day. He subsequently was 
flat on CIWA scales for several days and the withdrawal 
assessment was discontinued.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
A family meeting was held with the patient and his wife ___ 
on ___, at which point his wife expressed great concern over 
his continued drinking and that she feared that without a 
dedicated substance treatment program the patient would likely 
relapse into alcohol use and concomitant depression. Our team 
expressed agreement with this and strongly encouraged Mr. 
___ to consider residential substance abuse treatment. 

#) INTERVENTIONS
- Medications: duloxetine, naltrexone
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Arranged for psychiatry follow up 
on ___, provided prescriptions for naltrexone and duloxetine, 
provided information regarding Alcoholics Anonymous meetings
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
-Guardianships:

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
presence of a suicide note, depressive symptoms, and active 
alcohol abuse and dependence.  Their static factors noted at 
that time include history of chronic depression, history of 
substance abuse, male gender, Caucasian race, age, the presence 
of a concurrent maladaptive narcissistic personality traits.  
The modifiable risk factors were also addressed at that time by 
initiated new medication treatment, encouraging compliance, 
discussing alcohol abstinence and prescribing naltrexone, 
referring patient to AA and encouraging residential substance 
treatment, encouraging engagement with outpatient treatment 
Finally, the patient is being discharged with many protective 
factors listed below. Overall, ***Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is very guarded. 

MODIFIABLE RISK FACTORS
**suicidal ideation without intent/plan, medication 
noncompliance, lack of engagement with outpatient treatment, 
hopelessness, social withdrawal, limited social supports, 
limited coping skills, lack of purpose, active substance 
abuse/intoxication, recent job loss. 

PROTECTIVE RISK FACTORS
 ***children in the home, reality testing ability, no history of 
abuse, strong social support from wife.  Thus, I feel the 
patient **meets/does not meet section 12a criteria for risk of 
harm to self/others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Amphetamine-Dextroamphetamine 10 mg PO DAILY:PRN low energy 

 
Discharge Medications:
1. DULoxetine 30 mg PO DAILY 
RX *duloxetine 30 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
2. Naltrexone 100 mg PO DAILY 
RX *naltrexone 50 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
Major depressive disorder

 
Discharge Condition:
Denies suicidal or violent thinking. Oriented to person, place, 
and time. 

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for alcohol use disorder and 
major depression with suicidal ideas.  We adjusted your 
medications, and you are now ready for discharge and continued 
treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

Optional Instructions:
We strongly recommend engaging in AA recovery meetings 
for ongoing help with sobriety.
Here is a website with links to meetings near your area:
___
 
Followup Instructions:
___